US07655768B2
Step 1. Synthesis of 1,3-dioleoylglycerol
3.8 g of dimeric dihydroxyacetone, 25 g of oleic acid, 20 g of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloric acid and 12.9 g of 4-dimethylaminopyridine were added to 150 mL of dichloromethane, and then the solution was stirred for 4 hours at room temperature. The reaction solution was mixed with 0.5 M potassium dihydrogenphosphate solution and subjected to extraction with dichloromethane, and then the extract washed with water and concentrated under reduced pressure after drying. A powder obtained by adding 1 L of methanol to the residue was collected, and then dried. The powder was dissolved in a mixture of 170 mL of tetrahydrofuran and 17 mL of acetic acid solution, and then 1.7 g of sodium borohydride was gradually added. After stirring for 2 hours at room temperature, the reaction solution was mixed with saturated sodium bicarbonate water, and then subjected to extraction with ethyl acetate. The organic layer was concentrated under reduced pressure after drying. The residue was purified with silica gel column chromatography to obtain 14.5 g of the objective compound.

reactant | dihydroxyacetone | 3.8 g | OC(C(C)=O)O | C3H6O3
reactant | oleic acid | 25 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloric acid | 20 g | Cl.C(C)N=C=NCCCN(C)C
reactant | potassium dihydrogenphosphate | 0.5 M | P(=O)(O)(O)[O-].[K+]
catalyst | 4-dimethylaminopyridine | 12.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 1 L | CO | CH4O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1,3-dioleoylglycerol | 14.5 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)COC(CCCCCCC\C=C/CCCCCCCC)=O | C39H72O5
